US04421758
A solution of 359 mg of 2,4-dichlorophenol in 3 ml of dimethylformamide was stirred with 96 mg of 55% sodium hydride at room temperature for 30 minutes. A solution of 536 mg of 2-tosyloxymethyl-3,4-dihydro-2H-pyran in 2 ml of dimethylformamide was then added, and the mixture was heated at 80°-90° C. for 2 hours. The reaction mixture was then cooled and poured onto a mixture of ice and sodium bicarbonate. The mixture was extracted with diethyl ether and the extract was dried over anhydrous potassium carbonate. After evaporation of the solvent, the residue was purified by column chromatography through silica gel eluted with a 1:2 by volume mixture of benzene and hexane, to give 394 mg of 2-(2,4-dichlorophenoxymethyl)-3,4-dihydro-2H-pyran.

reactant | 2,4-dichlorophenol | 359 mg | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | sodium hydride | 96 mg | [H-].[Na+]
reactant | 2-tosyloxymethyl-3,4-dihydro-2H-pyran | 536 mg | S(=O)(=O)(C1=CC=C(C)C=C1)OCC1OC=CCC1 | C13H16O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-(2,4-dichlorophenoxymethyl)-3,4-dihydro-2H-pyran | 394 mg | ClC1=C(OCC2OC=CCC2)C=CC(=C1)Cl | C12H12Cl2O2
